US07396844B1
Synthesis of ethyl [N-methyl-N-(pyridine-4-yl)amino]acetate
17 g (113 mmol) of 4-chloropyridine, 17 g (111 mmol) of ethyl (methylamino)acetate and 47 ml (333 mmol) of triethylamine were stirred in 350 ml of xylene at 130° C. for 24 hours. After the treatment with ethyl acetate as the extractant in an ordinary manner, the title compound was obtained.

reactant | 4-chloropyridine | 113 mmol, 17 g | ClC1=CC=NC=C1 | C5H4ClN
reactant | ethyl (methylamino)acetate | 111 mmol, 17 g | CNCC(=O)OCC | C5H11NO2
reactant | triethylamine | 333 mmol, 47 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
product | ethyl [N-methyl-N-(pyridine-4-yl)amino]acetate | CN(C1=CC=NC=C1)CC(=O)OCC | C10H14N2O2
